US04239901
3.83 g (10 mmoles) of methyl-[3-chloro-4-(4-chloropyrazol-1-yl) phenyl] malonic acid diethyl ester, 1.4 g of potassium hydroxide, 5 ml of water and 15 ml of n-butanol are heated to the boil for 3 hours, with stirring. The solvent is evaporated off, the residue is dissolved in water, the aqueous solution is extracted with ether, acidification is effected with hydrochloric acid and the precipitate is filtered off. 2-[3-chloro-4-(4-chloropyrazol-1-yl) phenyl] propionic acid is obtained; m.p. 102°-103° C.

reactant | methyl-[3-chloro-4-(4-chloropyrazol-1-yl) phenyl] malonic acid diethyl ester | 10 mmoles, 3.83 g | C(C)OC(C(C(=O)OCC)(C1=CC(=C(C=C1)N1N=CC(=C1)Cl)Cl)C)=O | C17H18Cl2N2O4
reactant | potassium hydroxide | 1.4 g | [OH-].[K+]
reactant | water | 5 ml | O | H2O
solvent | n-butanol | 15 ml | C(CCC)O | C4H10O
product | 2-[3-chloro-4-(4-chloropyrazol-1-yl) phenyl] propionic acid | ClC=1C=C(C=CC1N1N=CC(=C1)Cl)C(C(=O)O)C | C12H10Cl2N2O2
